US05130424
A solution of formic acid (0.22 mL, 5.84 mmole) and acetic anhydride (0.46 mL, 4.76 mmole) was heated at reflux temperature for 2 hours under a nitrogen atmosphere. The cooled solution was diluted with tetrahydrofuran (5 mL) and a solution of 4-amino-N-(1,1-dimethylethyl)-3-oxoandrosta-4,6-diene-17β-carboxamide, (0.35 g, 0.91 mmole) in tetrahydrofuran (10 mL) was added. The reaction was stirred overnight at room temperature and then diluted with water (25 mL). A gummy material separated which was extracted into diethyl ether-dichloromethane and washed with saturated aqueous sodium bicarbonate. The dried solution was concentrated to a yellow foam which was purified by flash chromatography (hexane-50% ethyl acetate, ethyl acetate) to give 4-formamido-N-(1,1-dimethylethyl)-3-oxoandrosta-4,6-diene-17β-carboxamide (0.25 g, 67.6%, diethyl ether). IR 3440, 3304, 3246, 1684, 1670, 1650 cm-1 ; MS (CI) m/z 413 (100%, M+ +1); (EI) m/z 412 (18%, M+), 57 (100%); 1H NMR (CDCl3) δ 0.78 (3H, s, C18 -Me), 1.14 (3H, s, C19 -Me), 1.37 (s, 3× tBu-Me's), 5.11 (1H, s, NHCOBu), 6.15-6.45 (2H, m, C6 -H+C7 -H), 7.07-7.20 (1H, d+s, NHCO), 8.12+8.29 (1H, d+s, CHO).

reactant | formic acid | 5.84 mmole, 0.22 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 4.76 mmole, 0.46 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-N-(1,1-dimethylethyl)-3-oxoandrosta-4,6-diene-17β-carboxamide | 0.91 mmole, 0.35 g | NC1=C2C=C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)C(=O)NC(C)(C)C | C24H36N2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 4-formamido-N-(1,1-dimethylethyl)-3-oxoandrosta-4,6-diene-17β-carboxamide | 0.25 g, 67.6% | C(=O)NC1=C2C=C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)C(=O)NC(C)(C)C | C25H36N2O3
